US06800654B2
{[6-(1-[-4-tert-Butylbenzyl]-3-pentyl-1H-indol-2-yl)-1-bromo-2-naphthyl]oxy}acetonitrile
The title compound was prepared as a solid (0.070 g, 19%) from {[1-bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile using 4-tert-butylbenzyl bromide and the procedure from step 4 of Example 2; 1H NMR (DMSO-d6) δ 0.73 (t, J=7.3 Hz, 3H), 1.06-1.30 (m, 4H), 1.15 (s, 9H), 1.48-1.63 (m, 2H), 2.69 (t, J=8.4 Hz, 1H), 5.31 (s, 2H), 5.47 (s, 2H), 6.74 (d, J=8.4 Hz, 2H), 7.05-7.17 (m, 3H), 7.17 (d, J=8.4 Hz, 2H), 7.42 (d, J=8.7 Hz, 1H), 7.66 (d, J=8.0 Hz, 1H), 7.70 (d, J=9.1 Hz, 2H), 8.05 (s, 1H), 8.13 (d, J=8.0 Hz, 1H), 8.23 (d, J=8.0 Hz, 1H); mass spectrum [(+) ESI], m/z 593/595 (M+H)+.

reactant | {[1-bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | BrC1=C(C=CC2=CC(=CC=C12)C=1NC2=CC=CC=C2C1CCCCC)OCC#N | C25H23BrN2O
reactant | 4-tert-butylbenzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
product | {[6-(1-[-4-tert-Butylbenzyl]-3-pentyl-1H-indol-2-yl)-1-bromo-2-naphthyl]oxy}acetonitrile | C(C)(C)(C)C1=CC=C(CN2C(=C(C3=CC=CC=C23)CCCCC)C=2C=C3C=CC(=C(C3=CC2)Br)OCC#N)C=C1 | C36H37BrN2O
